US05143920
3-Butyryl-6-benzoyloxy-8-methoxy-4(1H)-quinolone (18.0 g) was heated under reflux in phosphorus oxychloride (100 ml) for 40 minutes. The solvent was evaporated and the residue dissolved in dichloromethane and poured into a vigorously stirred mixture of ice and sodium hydrogen carbonate solution. The organic phase was washed with sodium hydrogen carbonate solution, dried, filtered and evaporated to give 3-butyryl-6-benzyloxy-4-chloro-8-methoxy quinoline as a brown oil (25 g).

reactant | 3-Butyryl-6-benzoyloxy-8-methoxy-4(1H)-quinolone | 18.0 g | C(CCC)(=O)C1=CNC2=C(C=C(C=C2C1=O)OC(C1=CC=CC=C1)=O)OC | C21H19NO5
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-6-benzyloxy-4-chloro-8-methoxy quinoline | 25 g | C(CCC)(=O)C=1C=NC2=C(C=C(C=C2C1Cl)OCC1=CC=CC=C1)OC | C21H20ClNO3
